US08115016B2
804 mg (3.2 mmol) (S)-5-biphenyl-4-ylmethylpyrrolidin-2-one (1-a, R1=H) is dissolved in 16 ml dry THF and cooled to −78° C. After the addition of 2.21 ml butyl lithium in hexane (1.59 M), the yellow solution is stirred at −78° C. for 30 min. Subsequently, 680 μl (640 mg=3.84 mmol) (2-chloromethoxyethyl)-trimethylsilane (SEM-Cl) is added and stirring is continued at −20° C. for 5 h. The mixture is then allowed to warm up to room temperature overnight. The reaction is then quenched by addition of 10 ml saturated NH4Cl solution followed by 10 ml water and extracted with 2×40 ml isopropyl acetate. The layers are separated and the organic layer dried over MgSO4, filtered and evaporated. The resulting residue (1.33 g) is purified using column chromatography (dichloromethane:triethylamine=99.5:0.5→dichloromethane:methanol:triethylamine=98.5:1:0.5) to give (S)-5-Biphenyl-4-ylmethyl-1-(2-trimethylsilanylethoxymethyl)pyrrolidin-2-one (1-a, R1=SEM) as a yellow oil. NMR (400 MHz, CDCl3, δ/ppm): 7.58 (m, 4 H); 7.47 (m, 2 H); 7.37 (m, 1 H); 7.30 (m, 2 H); 5.04 (d, J=10.6, 1 H); 4.70 (d, J=10.6, 1 H); 4.03 (m, 1 H); 3.59 (m, 2 H); 3.24 (dd, J=4.2, 13.4, 1 H); 2.67 (dd, J=9.1, 13.4, 1 H); 2.33 (t, J=8.2, 2 H); 2.10 (m, 1H); 1.81 (m, 1 H); 1.00 (m, 2 H); 0.06 (s, 9 H). MS (ESI, m/e) 382 [M+H]+; 763 [2M+H]+. IR (solution in CH2Cl2, ν/cm−1): 3057; 2951; 1702; 1487; 1414; 1249; 1073; 859; 836; 759; 697.

reactant | (S)-5-biphenyl-4-ylmethylpyrrolidin-2-one | 3.2 mmol, 804 mg | C1(=CC=C(C=C1)C[C@@H]1CCC(N1)=O)C1=CC=CC=C1 | C17H17NO
reactant | butyl lithium | 2.21 ml | C(CCC)[Li]
reactant | (2-chloromethoxyethyl)-trimethylsilane | 3.84 mmol, 680 μl, 640 mg | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.59 M | CCCCCC | C6H14
product | (S)-5-Biphenyl-4-ylmethyl-1-(2-trimethylsilanylethoxymethyl)pyrrolidin-2-one | C1(=CC=C(C=C1)C[C@@H]1CCC(N1COCC[Si](C)(C)C)=O)C1=CC=CC=C1 | C23H31NO2Si
